US05302621
N-[(S)-1-Phenyl-2-(4-methylphenyl)ethyl]-4-methyl-3-oxo-4-azaandrost-5-ene-17β-carboxamide
The title compound was prepared in a yield of 58% in a similar manner to that described in Example 1 by reacting 4-methyl-3-oxo-4-azaandrost-5-ene-17β-carboxylic acid (prepared as described in Preparation 5) and (S)-1-phenyl-2-(4-methylphenyl)ethylamine.

reactant | 4-methyl-3-oxo-4-azaandrost-5-ene-17β-carboxylic acid | CN1C2=CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CCC1=O)C)C(=O)O | C20H29NO3
reactant | (S)-1-phenyl-2-(4-methylphenyl)ethylamine | C1(=CC=CC=C1)[C@H](CC1=CC=C(C=C1)C)N | C15H17N
product | N-[(S)-1-Phenyl-2-(4-methylphenyl)ethyl]-4-methyl-3-oxo-4-azaandrost-5-ene-17β-carboxamide | yield of 58% | C1(=CC=CC=C1)[C@H](CC1=CC=C(C=C1)C)NC(=O)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC=C3N(C(CC[C@]3(C)[C@H]1CC2)=O)C | C35H44N2O2
